US05871755
20 g of DL-aspartic acid (Aldrich) are dissolved in 210 ml of a 2.5N aqueous sodium hydroxide solution (120 ml)/THF (90 ml) mixture in a 500 ml, three-necked, round-bottomed flask equipped with a pHmeter and two dropping funnels containing, on the one hand, a 2.5N aqueous sodium hydroxide solution and, on the other hand, o-toluyl chloride. The o-toluyl chloride is added drop-wise while maintaining the pH above 9 by simultaneous addition of the 2.5N sodium hydroxide solution. The reaction mixture is kept stirring for 2 h 30 minutes after the end of the addition of the acid chloride before being acidified with a concentrated hydrochloric acid solution. The mixture is then exhaustively extracted with ethyl acetate. The organic phase is washed, dried and concentrated to dryness to provide 27.9 g (non-optimized yield 74%) of N-(ortho-toluyl)aspartic acid, used as is in the second stage.

reactant | DL-aspartic acid | 20 g | NC(CC(=O)O)C(=O)O | C4H7NO4
reactant | o-toluyl chloride | C=1(C(=CC=CC1)Cl)C | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2.5N, 120 ml | [OH-].[Na+]
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | sodium hydroxide | 2.5N | [OH-].[Na+]
product | N-(ortho-toluyl)aspartic acid | 27.9 g, yield 74% | C1(=C(C=CC=C1)N[C@@H](CC(=O)O)C(=O)O)C | C11H13NO4
